US05369098
p-Toluenesulfonyl chloride (3.47 g, 18.2 mmol) was added to a solution of the above preparation of (trans)-3-hydroxycyclobutanemethanol, benzoate ester (2.5 g) in dry pyridine (35 ml) under nitrogen, and the mixture was stirred at 60° for 18 hours. Water (20 ml) was added, and heating was continued for 4 hours longer. The reaction was cooled to room temperature and concentrated in vacuo to a solid, which was dissolved in ethyl acetate and water. The ethyl acetate layer was washed with water, saturated aqueous NaHCO3, and water, dried (Na2SO4), and concentrated to a solid (3.8 g). This solid was combined with 1.5 g of solid from a similar preparation. Chromatography of these solids over 200 g of LP-1 silica gel, using hexane-ethyl acetate (6:1), gave (trans)-3-[[(4-methylphenyl)sulfonyl]oxy]cyclobutanemethanol, benzoate ester containing varying amounts of its cis-isomer as shown below:

reactant | p-Toluenesulfonyl chloride | 18.2 mmol, 3.47 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (trans)-3-hydroxycyclobutanemethanol | O[C@@H]1C[C@H](C1)CO | C5H10O2
reactant | Water | 20 ml | O | H2O
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
product | (trans)-3-[[(4-methylphenyl)sulfonyl]oxy]cyclobutanemethanol | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H]1C[C@H](C1)CO | C12H16O4S
